US08431575B2
A mixture of 3-azidomethyl-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester (1.1 mmol, 300 mg) and 10% palladium on carbon (60 mg) in EtOAc (8 mL) was stirred under an atmosphere of H2 for 2 hrs, filtered through celite, and concentrated to provide 3-aminomethyl-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 3-azidomethyl-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)(F)F)CN=[N+]=[N-] | C11H18F2N4O2
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | 3-aminomethyl-4,4-difluoro-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)(F)F)CN | C11H20F2N2O2
